US07435837B2
Treatment of (±)-1-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methanamine (1.80 g, 6.52 mmol) with diisopropylethylamine (2.11 g, 16.29 mmol) and benzyl chloroformate (1.28 g, 7.49 mmol) generally according to the procedure described for Intermediate 12 gave 2.33 g (95%) of (±)-benzyl(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a colorless oil. Anal. calcd. for C21H24ClNO3 C, 67.46; H, 6.47; N, 3.75. Found C, 67.27; H, 6.62; N, 3.66. Chiral HPLC separation of (±)-benzyl(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralpak AD, hexane:isopropanol 9:1) provided two fractions. Fraction 1 (Rt=5.642 min, Chiralpak AD, hexane:isopropanol 9:1); Fraction 2 (Rt=6.494 min, Chiralpak AD, hexane:isopropanol 9:1).

reactant | (±)-1-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methanamine | 6.52 mmol, 1.80 g | C(C)(C)(C)C1=CC(=CC=2CC(OC21)CN)Cl | C13H18ClNO
reactant | diisopropylethylamine | 16.29 mmol, 2.11 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 7.49 mmol, 1.28 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 2.33 g, 95% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=C(C=C2C(C)(C)C)Cl)=O | C21H24ClNO3
